US08664221B2
7-(2-Methoxy-4-methoxymethoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 11)
A mixture of 8-chloromethyl-7-(2-methoxy-4-methoxymethoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 10, 238 mg, 0.609 mmol), 5-methyl-2-thiophenecarboxylic acid (133 mg, 0.936 mmol), and potassium carbonate (261 mg, 1.89 mmol) was suspended in anhydrous N,N-dimethylformamide (5 mL) and stirred at 80° C. for 2 hours. The reaction mixture was diluted with ethyl acetate (100 mL). It was washed with water (100 mL) and saturated brine (100 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (264 mg) as a yellow amorphous product. (Yield 87%)

reactant | 8-chloromethyl-7-(2-methoxy-4-methoxymethoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.609 mmol, 238 mg | ClCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=C(C=C1)OCOC)OC | C20H23ClN2O4
reactant | 5-methyl-2-thiophenecarboxylic acid | 0.936 mmol, 133 mg | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | potassium carbonate | 1.89 mmol, 261 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2-Methoxy-4-methoxymethoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 264 mg, Yield 87% | COC1=C(C=CC(=C1)OCOC)C1=CC=C2NC(C(NC2=C1COC(=O)C=1SC(=CC1)C)=O)(C)C | C26H28N2O6S
